US09447046B2
Preparation 88a: 6-(3,6-dihydro-2H-pyran-4-yl)-1,2,3,4-tetrahydronaphthalen-1-one
To a solution of 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (1.4 g, 4.76 mmol) in dioxane (6 mL) was added 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester (1.0 g, 4.76 mmol), Pd(dppf)Cl2DCM (408 mg, 0.5 mmol) and sat. NaHCO3 solution (2 mL). The mixture was stirred at 100° C. for 2 h under nitrogen. The mixture was cooled to rt and diluted with EtOAc, filtered, and concentrated. The residue was purified by silica gel chromatography (PE:EtOAc=4:1) to give 930 mg (86%) of the title compound as yellow solid. 1H NMR (400 MHz, CDCl3): δ 2.13-2.16 (2H, m), 2.53 (2H, s), 2.65 (2H, t, J=6.4 Hz), 2.96 (2H, t, J=6.0 Hz), 3.94 (2H, t, J=5.6 Hz), 4.34 (2H, s), 6.26 (1H, s), 7.25 (1H, d, J=5.6 Hz), 7.33 (1H, d, J=8.4 Hz), 7.99 (1H, d, J=8.0 Hz). [M+H] Calc'd for C15H16O2, 229. Found, 229.

reactant | 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 4.76 mmol, 1.4 g | FC(S(=O)(=O)OC1=CC=2CCCC(C2C=C1)=O)(F)F | C11H9F3O4S
reactant | 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester | 4.76 mmol, 1.0 g | O1CCC(=CC1)B1OC(C)(C)C(C)(C)O1 | C11H19BO3
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(3,6-dihydro-2H-pyran-4-yl)-1,2,3,4-tetrahydronaphthalen-1-one | 930 mg, 86% | O1CCC(=CC1)C=1C=C2CCCC(C2=CC1)=O | C15H16O2
